US04758578
3-(2-Chlorophenyl)-1,2,4-thiadiazole-5-sulfinamide
A solution of 3.45 g of 85% m-chloroperoxybenzoic acid in 100 ml of DME was added to a solution of 4 g of 3-(2-chlorophenyl)-1,2,4-thiadiazole-5-sulfenamide in 150 ml of DME at -70° C. over an hour. The resulting solution was stirred for 2 hours at -70° and thereafter warmed to room temperature. Concentration gave a solid which was stirred with 100 ml of sodium bicarbonate solution overnight. The solid was collected and the filtrate was extracted with ethyl acetate/dichloromethane. Concentration gave 0.7 g of solid which was recrystallized in benzene to give 0.52 g of solid, m.p. 130°-131°.

reactant | m-chloroperoxybenzoic acid | 3.45 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 3-(2-chlorophenyl)-1,2,4-thiadiazole-5-sulfenamide | 4 g | ClC1=C(C=CC=C1)C1=NSC(=N1)SN | C8H6ClN3S2
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | DME | 100 ml | COCCOC | C4H10O2
solvent | DME | 150 ml | COCCOC | C4H10O2
product | 3-(2-Chlorophenyl)-1,2,4-thiadiazole-5-sulfinamide | 0.7 g | ClC1=C(C=CC=C1)C1=NSC(=N1)S(=O)N | C8H6ClN3OS2
